US04734501
Synthesis of 1-(1-methylethyl)-6-methylergoline-8-carboxylic acid
To a 250 ml, three-neck round bottom flask was added 15.0 g (50.8 mmol) of 92% pure 9,10-dihydrolysergic acid, 18.08 g (277.7 mmol) of 86% pure powdered potassium hydroxide and 150 ml of DMSO. The mixture was stirred for approximately 15 minutes and 14.3 g (66.8 mmol) of p-toluenesulfonic acid, 1-methylethyl ester was added dropwise to the reaction mixture over a period of about 10 minutes. The reaction mixture was stirred at room temperature for approximately 24 hours and poured into 750 ml of ice water. The mixture was washed with 150 ml of ethyl acetate, and the aqueous phase was separated and the pH was adjusted to 5 with glacial acetic acid. The mixture was cooled in the freezer and the precipitated solid was collected by vacuum filtration. The solid was washed with water and dried in vacuo to provide 12.8 g of the title compound. A second crop of 0.82 g of the desired compound was obtained. The purity of the first crop material was 99.6% and the purity of the second crop material was 98.8% as determined by HPLC. Exact mass: theory 312.18378; found 312.18485.

reactant | 9,10-dihydrolysergic acid | 50.8 mmol, 15.0 g | CN1CC(CC2C1CC3=CNC4=CC=CC2=C34)C(=O)O | C16H18N2O2
reactant | potassium hydroxide | 277.7 mmol, 18.08 g | [OH-].[K+]
reactant | p-toluenesulfonic acid, 1-methylethyl ester | 66.8 mmol, 14.3 g | C1(=CC=C(C=C1)S(=O)(=O)OC(C)C)C | C10H14O3S
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 1-(1-methylethyl)-6-methylergoline-8-carboxylic acid | 12.8 g | CC(C)N1C=C2C[C@H]3N(CC(C[C@@H]3C=3C=CC=C1C32)C(=O)O)C | C19H24N2O2
